US07030128B2
3-(2-Chloropyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine was reacted with diethyl(3-pyridyl)borane by the method of Example 35 to afford 7-(1-methyl-1-triethylsilanyloxyethyl)-3-[2-(pyridin-3-yl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidine as a white solid: δH (400 MHz, CDCl3) 0.73 (6H, q, J 8.1), 1.01 (9H, t, J 8.0), 1.72 (6H, s), 7.46-7.53 (2H, m), 7.61 (1H, d, J 5.5), 7.67 (1H, d, J 7.0), 8.52 (1H, s), 8.72-8.79 (2H, m), 9.71 (1H, m), 10.24 (1H, d, J 7.0); m/z (ES+) 447 (M++H).

reactant | 3-(2-Chloropyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | ClC1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C19H26ClN5OSi
reactant | diethyl(3-pyridyl)borane | C(C)B(C=1C=NC=CC1)CC | C9H14BN
product | 7-(1-methyl-1-triethylsilanyloxyethyl)-3-[2-(pyridin-3-yl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidine | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)C2=NC(=NC=C2)C=2C=NC=CC2 | C24H30N6OSi
